US05089487
11-Hydroxy-4-methoxy-9-methyl-3-(3-methylbutan-1-onyl)-7H-dibenzo[b,g][1,5]dioxocin-5-one
800 mg (2.2 mmol) of penicillide (Ib) are stirred at 25° C. under argon for 3 h in 15 ml of methylene chloride and 880 mg (4.1 mmol) of pyridinium chlorochromate. After addition of 200 ml of diethyl ether, the mixture is filtered through silica gel Si60. The evaporation residue of the filtrate is chromatographed on silica gel using petroleum ether/ether =1:1

reactant | penicillide | 2.2 mmol, 800 mg | CC1=CC2=C(C(=C1)O)OC3=CC=C(C(=C3C(=O)OC2)OC)[C@H](CC(C)C)O | C21H24O6
reactant | pyridinium chlorochromate | 4.1 mmol, 880 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 11-Hydroxy-4-methoxy-9-methyl-3-(3-methylbutan-1-onyl)-7H-dibenzo[b,g][1,5]dioxocin-5-one | OC1=CC(=CC=2COC(C3=C(OC21)C=CC(=C3OC)C(CC(C)C)=O)=O)C | C21H22O6
